US08710091B2
34.1) 5,7-diazaspiro[3.4]octane-6,8-dione
Sodium cyanide (1.47 g, 30 mmole) then ammonium carbonate (7.5 g, 78 mmole) are added under argon and at 23° to a solution of cyclobutanone (1.49 ml, 20 mmole) diluted in an ethanol-water solvent mixture (16 ml). The reaction mixture is heated for 6 hours at 70° C. After cooling down the reaction medium, water (15 ml) is poured in, then a solution of concentrated hydrochloric acid (13 ml) is added carefully. After stirring for 10 hours at 23° C. the ethanol and part of the water content of the reaction mixture are evaporated with a rotary evaporator. The precipitate is filtered on frit then washed with water. The expected compound is obtained in the form of a beige powder with a yield of 39% (1.1 g).

reactant | Sodium cyanide | 30 mmole, 1.47 g | [C-]#N.[Na+]
reactant | ammonium carbonate | 78 mmole, 7.5 g | C([O-])([O-])=O.[NH4+].[NH4+]
reactant | cyclobutanone | 20 mmole, 1.49 ml | C1(CCC1)=O | C4H6O
reactant | hydrochloric acid | 13 ml | Cl | ClH
reactant | ethanol water | C(C)O.O
solvent | water | O | H2O
solvent | ethanol | C(C)O | C2H6O
solvent | water | 15 ml | O | H2O
product | 5,7-diazaspiro[3.4]octane-6,8-dione | yield of 39% | C1CCC12NC(NC2=O)=O | C6H8N2O2
